US07049342B2
Ethyl 2-ethyl-3-(4-methoxyphenyl)propanoate
Ethyl 2-ethyl-3-(4-methoxyphenyl)acrylate (4.58 g, 19.5 mmol), 5% palladium on carbon (500 mg) and ethyl acetate (100 mL) were mixed and hydrogenated for 8 hours at room temperature. After the catalyst was removed by filtration, the filtrate was concentrated to afford 4.63 g (100%) of the title compound as a pale yellow oil.

reactant | Ethyl 2-ethyl-3-(4-methoxyphenyl)acrylate | 19.5 mmol, 4.58 g | C(C)C(C(=O)OCC)=CC1=CC=C(C=C1)OC | C14H18O3
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-ethyl-3-(4-methoxyphenyl)propanoate | 4.63 g, 100% | C(C)C(C(=O)OCC)CC1=CC=C(C=C1)OC | C14H20O3
